US06583135B2
tert-Butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.100 g, 0.302 mmol) was dissolved in THF (6 mL). 5,6,7,8-Tetrahydronaphthalen-1-ol (0.067 g, 0.454 mmol) was added, and after 25 min di-tert-butyl azodicarboxylate (0.105 g, 0.454 mmol) was added. The reaction mixture was stirred at 40° C. for 5 h. The solvent was removed in vacuo. The crude product was flash chromatographed (9:1 hexane:EtOAc) and tert-butyl 6-[2-(5,6,7,8-tetrahydronaphthalen-1-yloxy)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate was obtained in 22% yield. tert-Butyl 6-[2-(5,6,7,8-tetrahydronaphthalen-1-yloxy)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.028 g, 0.061 mmol) was dissolved in EtOAc (5 mL). 4N HCl in dioxane (2 mL) was added. The reaction mixture was stirred at rt under N2 for 20 h. The solvent, was removed in vacuo. The crude product was dissolved in EtOAc (2 mL) and Et2O (3 mL) was added dropwise. The precipitate was collected by filtration, wash with Et2O and dried in vacuo at reduced pressure to yield 6-[2-(5,6,7,8-tetrahydronaphthalen-1-yloxy)ethyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride in 73% yield. 1H NMR (400 MHz, CD3OD) δ 1.66-1.72, 2.35-2.39, 2.65-2.72, 3.20-3.23, 3.36-3.50, 4.23-4.28, 4.61-4.64, 6.51, 6.63, 6.93, 7.10, 7.18, 7.44, 7.50; MS (ESI+) for C24H28N2O m/z 361.1 (M+H)+.

reactant | tert-Butyl 6-[2-(5,6,7,8-tetrahydronaphthalen-1-yloxy)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.061 mmol, 0.028 g | C1(=CC=CC=2CCCCC12)OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C29H36N2O3
reactant | HCl | 4N | Cl | ClH
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-[2-(5,6,7,8-tetrahydronaphthalen-1-yloxy)ethyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride | 73% yield | Cl.C1(=CC=CC=2CCCCC12)OCCN1C2=C(C=3C=CC=CC13)CCNCC2 | InChI=1S/C24H28N2O.ClH/c1-2-8-19-18(6-1)7-5-11-24(19)27-17-16-26-22-10-4-3-9-20(22)21-12-14-25-15-13-23(21)26;/h3-5,7,9-11,25H,1-2,6,8,12-17H2;1H
